spice
* Differential Amplifier Netlist
Q1 Vout Vin1 2 NPN
Q2 Vout Vin2 2 NPN
Q3 Vb Vout VCC PNP
? Missing component
I1 2 0 DC IEE
Vcc VCC 0 DC 15
Vb Vb 0 DC 5
Vin1 Vin1 0 DC 1
Vin2 Vin2 0 DC 1.1
.model NPN NPN
.model PNP PNP
.end
